US06069157
4-(3-Bromoisoxazol-5-yl)-3-cyano-1-(2,6-dichloro-4-trifluoromethyiphenyl)pyrazole
To a solution of 5-amino-4-(3-bromoisoxazol-5-yl)-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole (0.1 g) in tetrahydrofuran (1.5 ml) was added t-butyl nitrite (77 μl). The mixture was heated to 65° C. for 1 hour, then cooled and evaporated. The residue was taken up in t-butanol and freeze dried to give the title compound as a pale yellow solid, m.p. 145° C.

reactant | 5-amino-4-(3-bromoisoxazol-5-yl)-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | 0.1 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C1=CC(=NO1)Br | C14H5BrCl2F3N5O
reactant | t-butyl nitrite | 77 μl | N(=O)OC(C)(C)C | C4H9NO2
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
product | 4-(3-Bromoisoxazol-5-yl)-3-cyano-1-(2,6-dichloro-4-trifluoromethyiphenyl)pyrazole | BrC1=NOC(=C1)C=1C(=NN(C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N | C14H4BrCl2F3N4O
